US06822100B2
Lithium aluminum hydride (30 mg, 7.86 mmol) was suspended in anhydrous THF at −45° C. (dry ice/acetonitrile) with stirring. The 2-(1H-indol-6-yl)-cyclopropanecarboxylic acid methoxy-methyl-amide was dissolved in anhydrous THF and added dropwise over a period of 10 min. The reaction was stirred for 3 h at this temperature, diluted with ether, then quenched with 1.5 mL of 1 N sodium hydroxide solution. The mixture was allowed to warm to room temperature and the resulting white solid was filtered and washed with ether. The ether layer was then concentrated in vacuo to give 2-(1H-indol-6-yl)-cyclopropanecarbaldehyde as a yellow solid. This material was used immediately for the next reaction.

reactant | Lithium aluminum hydride | 7.86 mmol, 30 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | dry ice acetonitrile | C(=O)=O.C(C)#N
reactant | 2-(1H-indol-6-yl)-cyclopropanecarboxylic acid methoxy-methyl-amide | CON(C(=O)C1C(C1)C1=CC=C2C=CNC2=C1)C | C14H16N2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-(1H-indol-6-yl)-cyclopropanecarbaldehyde | N1C=CC2=CC=C(C=C12)C1C(C1)C=O | C12H11NO
